US08957080B2
Into a 100-mL round-bottom flask, was placed 3-[4-(3-fluorophenoxy)phenyl]-1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (216 mg, 0.53 mmol, 1.00 equiv), 2-cyanoacetic acid (36.8 mg, 0.43 mmol, 0.80 equiv), HATU (166 mg, 0.44 mmol, 0.80 equiv), triethylamine (109 mg, 1.08 mmol, 2.00 equiv), N,N-dimethylformamide (50 mL). The resulting solution was stirred for 3 h at 25° C. The resulting solution was extracted with ethyl acetate and the organic layers combined and concentrated under vacuum. The residue was loaded on a silica gel column and eluted with dichloromethane methanol (50 l) to give 150 mg (60%) of 3-[(2R)-2-([4-amino-3-[4-(3-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidin-1-yl]-3-oxopropanenitrile as a yellow solid.

reactant | 3-[4-(3-fluorophenoxy)phenyl]-1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.53 mmol, 216 mg, 1.00 equiv | FC=1C=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)C[C@@H]3NCCC3)C=CC1 | C22H21FN6O
reactant | 2-cyanoacetic acid | 0.43 mmol, 36.8 mg, 0.80 equiv | C(#N)CC(=O)O | C3H3NO2
reactant | HATU | 0.44 mmol, 166 mg, 0.80 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.08 mmol, 109 mg, 2.00 equiv | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-[(2R)-2-([4-amino-3-[4-(3-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidin-1-yl]-3-oxopropanenitrile | 150 mg, 60% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC(=CC=C2)F)C[C@@H]2N(CCC2)C(CC#N)=O | C25H22FN7O2
